US08859566B2
A mixture of 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one (4.0 g, 9.16 mmol), NaCN (0.67 g, 13.74 mmol), NaI (2.0 g, 9.16 mmol) and DMF (30 ml) were stirred for 48 hrs at 60° C. Reaction mixture was cooled to 20-25° C. and water was added and solid filtered off. The crude product was purified by column chromatography using silica gel (100-200 mesh) and 2 to 4% methanol in DCM as an eluent to obtain 6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purine-2-carbonitrile (2.6 g, 67%) as an off white solid.

reactant | 2-Chloro-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-1,7-dihydro-purin-6-one | 9.16 mmol, 4.0 g | ClC=1N(C(C=2NC(=NC2N1)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F)=O)CCC | C19H16ClF3N6O
reactant | NaCN | 13.74 mmol, 0.67 g | [C-]#N.[Na+]
reactant | NaI | 9.16 mmol, 2.0 g | [Na+].[I-]
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 6-Oxo-1-propyl-8-[1-(3-trifluoromethyl-benzyl)-1H-pyrazol-4-yl]-6,7-dihydro-1H-purine-2-carbonitrile | 2.6 g, 67% | O=C1C=2NC(=NC2N=C(N1CCC)C#N)C=1C=NN(C1)CC1=CC(=CC=C1)C(F)(F)F | C20H16F3N7O
